US06174905B1
To a suspension of 21.16 g of 4-aminomethylbenzoic acid(140 mmol) in 450 mL of dichloromethane was added 42 mL of triethylamine (300 mmol). Under ice-cooling, 60.4 g of trifluoroacetic anhydride (287 mmol) in 50 mL of dichloromethane were added dropwise, maintaining the inner temperature at 3 to 8° C., and then the mixture was stirred four 3 hours. The reaction mixture was poured into a saturated aqueous sodium bicarbonate solution, and was acidified with 10% hydrochloric acid. The gel precipitate-was collected by filtration and dried to give 30.4 g of 4-(N-trifluoroacetylaminomethyl)benzoic acid (Yield: 87.8%) as an opalescent solid.

reactant | 4-aminomethylbenzoic acid | 140 mmol, 21.16 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | triethylamine | 300 mmol, 42 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 287 mmol, 60.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(N-trifluoroacetylaminomethyl)benzoic acid | 30.4 g, Yield: 87.8% | FC(C(=O)NCC1=CC=C(C(=O)O)C=C1)(F)F | C10H8F3NO3
